US08293903B2
Step 6. 3-[{(1S,4R)-4-[1-(Acetyloxy)cyclobutyl]-4-[(benzyloxy)carbonyl]cyclopent-2-en-1-yl}(trifluoroacetyl)amino]-1,5-anhydro-2,3-dideoxy-4-O-methyl-D-erythro-pentitol
To a stirred solution of 3.58 g (7.2 mmol) of 1,5-anhydro-3-{[(1S,4R)-4-[(benzyloxy)carbonyl]-4-(1-hydroxycyclobutyl)cyclopent-2-en-1-yl](trifluoroacetyl)amino}-2,3-dideoxy-4-O-methyl-D-erythro-pentitol, 1.6 mL (9.2 mmol) of diisopropylethylamine, and 100 mg (0.82 mmol) of DMAP in 10 mL of dichloromethane was added dropwise 5.1 mL (72 mmol) of acetyl chloride. The solution was stirred at ambient temperature for 18 h, then cooled in ice and quenched with aqueous NaHCO3. The aqueous phase was extracted with additional dichloromethane, and the combined organic phases dried (Na2SO4) and concentrated under reduced pressure. Flash chromatography of the residue on silica using 8-10% ethyl acetate in dichloromethane provided 2.63 g (68%) of the title compound as a viscous yellow oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.35-1.48 (m, 1H) 1.54-1.61 (m, 1H) 1.82-1.94 (m, 1H) 1.88 (s, 3) 2.17-2.26 (m, 1H) 2.34 (dd, J=14.7, 9.9 Hz, 1H) 2.43-2.64 (m, 5H) 3.32 (d, J=12.6 Hz, 1H) 3.37-3.43 (m, 1H) 3.43 (s, 3H) 3.46-3.55 (m, 1H) 3.84-3.94 (m, 1H) 4.09-4.15 (m, 1H) 4.19 (d, J=13.0 Hz, 1H) 4.98-5.05 (m, 1H) 5.08 (d, J=12.3 Hz, 1H) 5.23 (d, J=12.3 Hz, 1H) 5.75 (dd, J=5.8, 2.0 Hz, 1H) 6.16 (dd, J=5.8, 2.4 Hz, 1H) 7.28-7.43 (m, 5H). TLC Rf 0.39 (10% ethyl acetate-dichloromethane). LC-MS ES+ 540.2.

reactant | 1,5-anhydro-3-{[(1S,4R)-4-[(benzyloxy)carbonyl]-4-(1-hydroxycyclobutyl)cyclopent-2-en-1-yl](trifluoroacetyl)amino}-2,3-dideoxy-4-O-methyl-D-erythro-pentitol | 7.2 mmol, 3.58 g | C(C1=CC=CC=C1)OC(=O)[C@]1(C=C[C@H](C1)N([C@H]1CCOC[C@H]1OC)C(C(F)(F)F)=O)C1(CCC1)O | C25H30F3NO6
reactant | diisopropylethylamine | 9.2 mmol, 1.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetyl chloride | 72 mmol, 5.1 mL | C(C)(=O)Cl | C2H3ClO
catalyst | DMAP | 0.82 mmol, 100 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-[{(1S,4R)-4-[1-(Acetyloxy)cyclobutyl]-4-[(benzyloxy)carbonyl]cyclopent-2-en-1-yl}(trifluoroacetyl)amino]-1,5-anhydro-2,3-dideoxy-4-O-methyl-D-erythro-pentitol | 2.63 g, 68% | C(C)(=O)OC1(CCC1)[C@@]1(C=C[C@H](C1)N([C@H]1CCOC[C@H]1OC)C(C(F)(F)F)=O)C(=O)OCC1=CC=CC=C1 | C27H32F3NO7
